US07947689B2
2-Methyl-5-(2-nitro-vinyl)-thiophene
In close analogy to the procedure described above, 5-Methyl-thiophene-2-carbaldehyde is reacted with nitromethane to provide the title compound.

reactant | 5-Methyl-thiophene-2-carbaldehyde | CC1=CC=C(S1)C=O | C6H6OS
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-Methyl-5-(2-nitro-vinyl)-thiophene | Yield: 76% | CC=1SC(=CC1)C=C[N+](=O)[O-] | C7H7NO2S
